* Z:\mnt\design.r\spice\examples\1807.asc
V1 +V 0 5
R1 N002 N001 1K
R2 N001 N003 1K
XU1 N004 N001 +V 0 N002 LT1807
C1 N002 N001 3p
C2 N003 0 150µ
R3 +V N004 5K
R4 N004 0 5K
C3 N004 IN 33µ
R5 IN 0 75
C4 N005 N002 1000µ
R6 N005 N006 75
T1 N006 0 OUT 0
R7 OUT 0 75
V2 IN 0 AC 2
.ac oct 20 200K 200Meg
* 5V Single Supply Video Line Driver
.lib LTC.lib
.backanno
.end
